US06867204B2
A three neck flask was charge with tris(dibenzylideneacetone)dipalladium(0) (0.37 g, 0.0004 mol, 2 mol % Pd), (±) racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.64 g, 0.001 mol, 5 mol % Pd), and sodium tert-butoxide (2.7 g, 0.028 mol) and flushed with nitrogen. A solution of 2-(2,6-dibromo-phenoxy)ethylamine (6 g, 0.02 mol) in toluene (50 mL) was added. The mixture was heated to 95° C. and was stirred for 12 h. The mixture was cooled to room temperature, taken up in ethyl acetate, filtered and concentrated. The crude material was purified by flash chromatography on silica gel (eluting with hexane-ethyl acetate; 7:3, v/v) to give 8-bromo-3,4-dihydro-2H-benzo[1,4]oxazine as an oil (275 mg, 48%). The hydrochloride salt was prepared from ethanol-hydrogen chloride. MS: MH+=214. M.p. 184.1-195.4° C.

reactant | (±) racemic-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.001 mol, 0.64 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 0.028 mol, 2.7 g | CC(C)([O-])C.[Na+]
reactant | 2-(2,6-dibromo-phenoxy)ethylamine | 0.02 mol, 6 g | BrC1=C(OCCN)C(=CC=C1)Br | C8H9Br2NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0004 mol, 0.37 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 8-bromo-3,4-dihydro-2H-benzo[1,4]oxazine | 275 mg, 48% | BrC1=CC=CC=2NCCOC21 | C8H8BrNO
